US07872031B2
To a solution of N-(4-(2,3-difluorophenylamino)pyridin-3-yl)-2-fluoropyridine-3-carboxamide (4.0 g, 11.6 mmol) in NMP (30 mL) was added t-butylamine (15.0 mL, 145.3 mmol) at RT. The reaction mixture was slowly heated to 100° C. and stirred at this temperature for 48 hr. The reaction mixture was diluted with water (150 mL) and extracted with EtOAc (3×200 mL). The combined organics were washed with water (4×100 mL), brine solution (100 mL), and dried (Na2SO4). Filtration and evaporation of solvent in vacuo gave N-(4-(2,3-difluorophenylamino)pyridin-3-yl)-2-(tert-butylamino)pyridine-3-carboxamide (4.1 g, 89% yield), which was used as is in subsequent reactions; LC-MS: 398.3 (M+H).

reactant | N-(4-(2,3-difluorophenylamino)pyridin-3-yl)-2-fluoropyridine-3-carboxamide | 11.6 mmol, 4.0 g | FC1=C(C=CC=C1F)NC1=C(C=NC=C1)NC(=O)C=1C(=NC=CC1)F | C17H11F3N4O
reactant | t-butylamine | 145.3 mmol, 15.0 mL | C(C)(C)(C)N | C4H11N
solvent | NMP | 30 mL | CN1CCCC1=O | C5H9NO
solvent | water | 150 mL | O | H2O
product | N-(4-(2,3-difluorophenylamino)pyridin-3-yl)-2-(tert-butylamino)pyridine-3-carboxamide | 4.1 g, 89% yield | FC1=C(C=CC=C1F)NC1=C(C=NC=C1)NC(=O)C=1C(=NC=CC1)NC(C)(C)C | C21H21F2N5O
